US09428477B2
Production of 3-((E)-2-Decenoyl)thiazolidine [Compound 4]
The same procedures as in Example 1 were carried out using (E)-2-decenoic acid and thiazolidine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | thiazolidine | S1CNCC1 | C3H7NS
product | 3-((E)-2-Decenoyl)thiazolidine | C(\C=C\CCCCCCC)(=O)N1CSCC1 | C13H23NOS
